US06846933B1
2-(3.4-Dichlorophenyl)-3-acetyl-5-(4-pyridyl)-1,3,4-oxadiazoline
The title compound was prepared from the isonicotinoylhydrazone of 3,4-dichlorobenzaldehyde and acetic anhydride, using the General Structural Outline for Oxadiazoline Synthesis in 36% yield, mp 101-104° C., IR ν 1667, 1628, 1598, 1552, 1410, 1365, 1334, 1314, 1266, 1212, 1169, 1130, 1094, 1072, 1032, 990, 926, 885, 857, 825, 745, 723, 702 cm−1.

reactant | isonicotinoylhydrazone of 3,4-dichlorobenzaldehyde | C1=CC(=C(C=C1/C=N/NC(=O)C2=CC=NC=C2)Cl)Cl | C13H9Cl2N3O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | Oxadiazoline | C1NN=CO1 | C2H4N2O
product | 2-(3.4-Dichlorophenyl)-3-acetyl-5-(4-pyridyl)-1,3,4-oxadiazoline | 36% yield | ClC=1C=C(C=CC1Cl)C1OC(=NN1C(C)=O)C1=CC=NC=C1 | C15H11Cl2N3O2
